US04456608
(c) Preparation of 2,2-dimethyl-3-vinyl-4-(1,2,4-triazol-1-yl)-8-phenoxyoctan-3-ol (Compound No. 1)
A solution of 12.6 g of 2,2-dimethyl-4-(1,2,4-triazol-1-yl)-8-phenoxyoctan-3-one was added dropwise to a solution of 8.7 g of vinyl magnesium chloride in 70 ml of tetrahydrofuran, while stirring. After the weakly exothermic reaction was complete, the mixture was refluxed for a further 5 hours and then cooled. Thereafter, a mixture of 5 ml of water and 5 ml of tetrahydrofuran was added dropwise, while cooling with ice, the reaction mixture was stirred for a further 2 hours at room temperature, the precipitated magnesium salts were then filtered off, and the filtrate was concentrated under reduced pressure. The residue from the filtrate was taken up in 100 ml of dichloromethane, the solution was washed with 100 ml of water and then with 100 ml of saturated ammonium chloride solution, and the organic phase was dried over magnesium sulfate and then concentrated under reduced pressure. 8.0 g of pale yellowish crystals of melting point 66°-69° C. (diastereomer mixture 2:1) crystallized from the residual oil on trituration with diisopropyl ether.

reactant | 2,2-dimethyl-4-(1,2,4-triazol-1-yl)-8-phenoxyoctan-3-one | 12.6 g | CC(C)(C(C(CCCCOC1=CC=CC=C1)N1N=CN=C1)=O)C | C18H25N3O2
reactant | vinyl magnesium chloride | 8.7 g | C(=C)[Mg]Cl
reactant | water | 5 ml | O | H2O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2,2-dimethyl-3-vinyl-4-(1,2,4-triazol-1-yl)-8-phenoxyoctan-3-ol | CC(C)(C(C(CCCCOC1=CC=CC=C1)N1N=CN=C1)(O)C=C)C | C20H29N3O2
